US07465795B2
4-amino-8-(4-fluoro-2-methoxy-phenyl)-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (150 mg, 0.485 mmol) and 4-fluoro-2-methoxy-phenylboronic acid (170 mg, 1.000 mmol) were reacted to afford the title compound (143 mg, 83% yield) as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.55 (br, 1H), 7.87 (m, 1H), 7.74-7.67 (m, 2H), 7.34-7.27 (m, 1H), 6.83-6.72 (m, 2H), 3.69 (s, 3H), 3.45 (apparent quartet, J=7.0 Hz, 2H), 1.65 (apparent sextet, J=7.0 Hz, 2H), 0.99 (t, 3H, J=7.0 Hz). MS APCI, m/z=355 (M+H). HPLC 1.66 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.485 mmol, 150 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | 4-fluoro-2-methoxy-phenylboronic acid | 1.000 mmol, 170 mg | FC1=CC(=C(C=C1)B(O)O)OC | C7H8BFO3
product | 4-amino-8-(4-fluoro-2-methoxy-phenyl)-N-propyl-cinnoline-3-carboxamide | 143 mg, 83% yield | NC1=C(N=NC2=C(C=CC=C12)C1=C(C=C(C=C1)F)OC)C(=O)NCCC | C19H19FN4O2
